US08372842B2
tert-Butyl 4-(5-cyclopropyl-3-ethyl-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (0.21 g, 0.43 mmol) was placed in DCM (5 mL). TFA (1.5 mL) was then added, and the reaction was stirred at room temperature for 1 hour and concentrated to dryness. The crude product was then azeotroped with toluene (3×) and dried to give the crude 5-cyclopropyl-3-ethyl-1-(4-methoxybenzyl)-4-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridine (0.16 g, 96% yield).

reactant | tert-Butyl 4-(5-cyclopropyl-3-ethyl-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.43 mmol, 0.21 g | C1(CC1)C=1C(=C2C(=NC1)N(N=C2CC)CC2=CC=C(C=C2)OC)N2CCN(CC2)C(=O)OC(C)(C)C | C28H37N5O3
reactant | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-cyclopropyl-3-ethyl-1-(4-methoxybenzyl)-4-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridine | 0.16 g, 96% yield | C1(CC1)C=1C(=C2C(=NC1)N(N=C2CC)CC2=CC=C(C=C2)OC)N2CCNCC2 | C23H29N5O
